US20010027196A1
2-Amino-4-furan-2-yl-6-[2-(naphthalen-1-ylamino)-ethylamino]-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile, N-(1-naphthyl)ethylendiamine dihydrochioride and DBU in DME. ES-MS m/e (%): 371 (M+H+, 100).

reactant | 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)C | C10H8N4O2S
reactant | N-(1-naphthyl)ethylendiamine dihydrochioride | Cl.Cl.C1(=CC=CC2=CC=CC=C12)NCCN
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-furan-2-yl-6-[2-(naphthalen-1-ylamino)-ethylamino]-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)NCCNC1=CC=CC2=CC=CC=C12 | C21H18N6O
